US03998970
N,N-Dimethyl-N'-Phenylthiocarbamyl formamidine
6.1 g. phenylthiourea and 4.3 g. dimethyl formamide dimethylacetal were suspended in 100 ml. of benzene with ~ 100 mg of p-toluene sulfuric acid and the mixture distilled through a 6 plate distilling column. The methanol-benzene azeotrope, bp 57° C, came off rapidly. After the bp rose to 80° C, the mixture was cooled and the product crystallized from the benzene. The yield was 6.3 g of solid m.p. 131°-138° C which was triturated with ether to give 6 g m.p. 139°-143° C.

reactant | phenylthiourea | C1(=CC=CC=C1)NC(=S)N | C7H8N2S
reactant | dimethyl formamide dimethylacetal | COC(N(C)C)OC | C5H13NO2
product | N,N-Dimethyl-N'-Phenylthiocarbamyl formamidine | CN(C=NC(NC1=CC=CC=C1)=S)C | C10H13N3S
